US07186733B2
1C: 3-[(1-Benzyl-piperidin-4-yl)-(4-diisopropylcarbamoyl-phenyl)-amino]benzamide (Example 1).
To a solution of 1.07 g of 3-bromobenzonitrile (5.88 mmol) in 15 ml dry toluene was added 1.2 mL of 4-amino-N-benzyl piperidine (5.89 mmol), 293 mg racemic BINAP (0.47 mmol), 215 mg tris(dibenzylideneacetone)dipalladium(0) (0.23 mmol) and 790 mg sodium tert butoxide (8.23 mmol). The reaction was heated at 80° C. under a nitrogen atmosphere for 4 hours. The reaction was cooled to room temperature and 2.34 g of N,N-diisopropyl-4-bromobenzamide (8.24 mmol) and 790 mg of sodium tert butoxide (8.23 mmol) were added and the reaction heated to reflux. After 20 hours the solution was cooled to room temperature and the reaction diluted with ethyl acetate (50 ml) and water (30 ml) was added, filtered through celite and then the organic layer was separated, dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography, eluting 2% dichloromethane in methanol rising to 5% methanol in dichloromethane. The residue was repurified by flash chromatography, eluting 10% hexanes 90% ethyl acetate to yield an orange foam (2.20 g, 4.45 mmol; 76%). The material was found to be >94% pure by HPLC (LUNA 30–80% acetonitrile).

reactant | 3-bromobenzonitrile | 5.88 mmol, 1.07 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | 4-amino-N-benzyl piperidine | 5.89 mmol, 1.2 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | BINAP | 0.47 mmol, 293 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert butoxide | 8.23 mmol, 790 mg | CC(C)([O-])C.[Na+]
reactant | N,N-diisopropyl-4-bromobenzamide | 8.24 mmol, 2.34 g | C(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C(C)C | C13H18BrNO
reactant | sodium tert butoxide | 8.23 mmol, 790 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.23 mmol, 215 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[(1-Benzyl-piperidin-4-yl)-(4-diisopropylcarbamoyl-phenyl)-amino]benzamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C=1C=C(C(=O)N)C=CC1)C1=CC=C(C=C1)C(N(C(C)C)C(C)C)=O | C32H40N4O2
